US05240935
To a solution of diisopropylamine (3.0 mL, 22 mmol) in THF (34 mL) at 0° C. under nitrogen was added n-BuLi (8.8 mL, 22 mmol, 2.5M in hexanes). A solution of ethyl 2,3,4,8-tetramethyl-2-azabicyclo[2.2.2]octane-6-carboxylate (4.8 g, 20 mmol) in THF (46 mL) was added to the mixture and the reaction was stirred at 0° C. for 1 hour. Ethyl chloroformate (2.3 mL, 24 mmol) in THF (3 mL) was then added and the mixture was stirred for 15 minutes. The reaction mixture was diluted with saturated ammonium chloride and partitioned between water and ether. The aqueous layer was extracted with ether (2X) and the combined organic layers were dried over anhydrous MgSO4. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel eluting with ether/hexane (15/85) to afford 3.9 g (63%) of diethyl 2,3,4,8-tetramethyl-2-azabicyclo-[2.2.2]octane-6,6-dicarboxylate as a yellow oil.

reactant | diisopropylamine | 22 mmol, 3.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 22 mmol, 2.5M, 8.8 mL | [Li]CCCC
reactant | ethyl 2,3,4,8-tetramethyl-2-azabicyclo[2.2.2]octane-6-carboxylate | 20 mmol, 4.8 g | CN1C2C(CC(C1C)(C(C2)C)C)C(=O)OCC | C14H25NO2
reactant | Ethyl chloroformate | 24 mmol, 2.3 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 34 mL | C1CCOC1 | C4H8O
solvent | THF | 46 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | diethyl 2,3,4,8-tetramethyl-2-azabicyclo-[2.2.2]octane-6,6-dicarboxylate | 3.9 g, 63% | CN1C2C(CC(C1C)(C(C2)C)C)(C(=O)OCC)C(=O)OCC | C17H29NO4
